US06969711B2
Preparation of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxy-4-nitrophenyl)acetamide:
Acetyl nitrate (145 mg, 0.75 mmol) was added to a solution of 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide (107 mg, 0.22 mmol) in acetonitrile (3 ml) with ice cooling followed by stirring for 10 minutes. The reaction solution was diluted with water, made alkaline by adding an aqueous solution of sodium bicarbonate thereto and extracted with chloroform twice. The organic layer was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate and the solvent was evaporated therefrom. The residue was purified by a preparative thin layer chromatography (developing solvent, chloroform:methanol=20:1) and the resulting crude crystals were recrystallized from chloroform-ethyl acetate-hexane to provide 60 mg (yield 51%) of the desired compound as yellow powdery crystals.

reactant | Acetyl nitrate | 0.75 mmol, 145 mg | [N+](=O)(OC(C)=O)[O-] | C2H3NO4
reactant | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide | 0.22 mmol, 107 mg | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)O)C(C)C | C27H36N4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-[4-[2-(benzoxazol-2-ylthio)ethyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxy-4-nitrophenyl)acetamide | 60 mg, yield 51% | O1C(=NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC2=C(C(=C(C=C2C(C)C)[N+](=O)[O-])O)C(C)C | C27H35N5O5S
